US04812565
2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazine-5(4H)-thione oxalate [1:1]
To 30 ml of dimethylsulfoxide was added 4.0 g (0.012 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-thione 1.4 g (0.025 mole) of azetidine and 10 g of potassium carbonate. The reaction mixture was stirred at room temperature for 2 days and 1.2 g (0.021 mole) of azetidine was added. After 3 days, the entire reaction mixture was poured into 500 ml of water and extracted with 3×100 ml of toluene. The combined organic layers were washed with 2×100 ml of water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The solid residue was treated with oxalic acid in isopropyl alcohol to give 2.4 g (46%) of yellow crystals, m.p. 96°-110° C.

reactant | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-thione | 0.012 mole, 4.0 g | ClCCC1OC2=C(C(N(C1)C)=S)C=C(C=C2)C(F)(F)F | C13H13ClF3NOS
reactant | azetidine | N1CCC1 | C3H7N
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 0.021 mole, 1.2 g | N1CCC1 | C3H7N
solvent | water | 500 ml | O | H2O
product | 2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazine-5(4H)-thione oxalate | 2.4 g, 46% | C(C(=O)O)(=O)O.N1(CCC1)CCC1OC=2C(N(C1)C)C(C=C(C2)C(F)(F)F)=S | InChI=1S/C15H19F3N2OS.C2H2O4/c1-19-9-11(3-6-20-4-2-5-20)21-12-7-10(15(16,17)18)8-13(22)14(12)19;3-1(4)2(5)6/h7-8,11,14H,2-6,9H2,1H3;(H,3,4)(H,5,6)
